US04644012
A mixture of 20 g of 7-(1-ethoxycarbonylethyl)oxy-3-phenyl-4H-1-benzopyran-4-one, 200 ml of dioxane, 70 ml of hydrochloric acid and 150 ml of water was refluxed for 4 hours and poured into ice water. The resulting crystalline precipitate was collected by filtration and recrystallized from ethanol to give 17.1 g of 7-(1-hydroxycarbonylethyl)oxy-3-phenyl-4H-1-benzopyran-4-one as white crystals. m.p. 223° C.

reactant | 7-(1-ethoxycarbonylethyl)oxy-3-phenyl-4H-1-benzopyran-4-one | 20 g | C(C)OC(=O)C(C)OC1=CC2=C(C(C(=CO2)C2=CC=CC=C2)=O)C=C1 | C20H18O5
reactant | dioxane | 200 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 70 ml | Cl | ClH
solvent | water | 150 ml | O | H2O
product | 7-(1-hydroxycarbonylethyl)oxy-3-phenyl-4H-1-benzopyran-4-one | 17.1 g | OC(=O)C(C)OC1=CC2=C(C(C(=CO2)C2=CC=CC=C2)=O)C=C1 | C18H14O5
